US06608203B2
2,2,2-Trifluoro-1-[1-(4-hydroxyphenyl)-3,4-dihydro-1H-isoquinolin-2-yl]ethanone
A mixture of 1-[1-(4-benzyloxyphenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-2,2,2-trifluoroethanone (0.144 g, 0.35 mmol), ammonium formate (0.441 g, 7.00 mmol), and 20% Pd(OH)2/C (0.100 g) in MeOH (50 ml) was refluxed under N2 for 1.5 hr, then filtered through Celite. The filtrate was evaporated in vacuo to a yellow residue that was suspended in a mixture of H2O (15 ml) and saturated NaHCO3 solution (15 ml), then extracted with CHCl3 (4×15 ml). The combined organic extracts were dried over MgSO4 and concentrated in vacuo to give 0.115 g of colorless oil. Purification by flash chromatography, eluting with hexane:EtOAc (8:2) gave 0.100 g (89% yield) of colorless oil.

reactant | 1-[1-(4-benzyloxyphenyl)-3,4-dihydro-1H-isoquinolin-2-yl]-2,2,2-trifluoroethanone | 0.35 mmol, 0.144 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1N(CCC2=CC=CC=C12)C(C(F)(F)F)=O | C24H20F3NO2
reactant | ammonium formate | 7.00 mmol, 0.441 g | C(=O)[O-].[NH4+]
solvent | MeOH | 50 ml | CO | CH4O
catalyst | Pd(OH)2/C | 0.100 g | [OH-].[OH-].[Pd+2]
product | 2,2,2-Trifluoro-1-[1-(4-hydroxyphenyl)-3,4-dihydro-1H-isoquinolin-2-yl]ethanone | 0.115 g | FC(C(=O)N1C(C2=CC=CC=C2CC1)C1=CC=C(C=C1)O)(F)F | C17H14F3NO2
